US08309562B2
N6-(4-Methoxy-phenyl)-N6-methyl-9H-purine-2,6-diamine
The title compound was prepared from 2-amino-6-chloro-9H-purine (100 mg, 0.546 mmol) and 4-methoxy-N-methyl-aniline (127 mg, 0.656 mmol) by a procedure similar to Example 1b and was isolated as white powder (5 mg, 5%). 1H NMR (CDCl3): 7.54 (s, 1H), 7.25 (d, J=8.7 Hz, 2H), 6.98 (d, J=8.7 Hz, 2H), 3.86 (s, 3H), 3.66 (s, 3H).

reactant | 2-amino-6-chloro-9H-purine | 0.546 mmol, 100 mg | NC1=NC(=C2N=CNC2=N1)Cl | C5H4ClN5
reactant | 4-methoxy-N-methyl-aniline | 0.656 mmol, 127 mg | COC1=CC=C(NC)C=C1 | C8H11NO
product | N6-(4-Methoxy-phenyl)-N6-methyl-9H-purine-2,6-diamine | COC1=CC=C(C=C1)N(C1=C2N=CNC2=NC(=N1)N)C | C13H14N6O
